US06015868
Preparation of Lithium 2,3,4,6-Tetramethylindenide
2,3,4,6-Tetramethylindene (11.12 g, 64.52 mmol) was stirred in hexane (250 mL) as nBuLi (70 mmol, 28 mL of 2.5 M solution in hexane) was added slowly. This mixture was allowed to stir overnight. After the reaction period the desired product was isolated as an off-white solid via filtration and used without further purification or analysis (10.98 g, 95.5 percent yield).

reactant | 2,3,4,6-Tetramethylindene | 64.52 mmol, 11.12 g | CC=1CC2=CC(=CC(=C2C1C)C)C | C13H16
reactant | nBuLi | 70 mmol, 2.5 M, 28 mL | [Li]CCCC
solvent | hexane | 250 mL | CCCCCC | C6H14
product | Lithium 2,3,4,6-Tetramethylindenide | 95.5 percent yield | CC=1[CH-]C2=CC(=CC(=C2C1C)C)C.[Li+] | InChI=1S/C13H15.Li/c1-8-5-10(3)13-11(4)9(2)7-12(13)6-8;/h5-7H,1-4H3;/q-1;+1
